US08304419B2
To a solution of N-({3-[(3-bromo-5-chlorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (145 mg, 0.232 mmol), copper iodide (2.213 mg, 0.012 mmol) and TEA (162 μL, 1.162 mmol) in THF (8 ml) was added trimethylsilylacetylene (43 μL, 0.302 mmol) and the reaction mixture was degassed for 5 minutes with nitrogen. The resulting mixture was heated with stirring at 60° C. for 4 hours under nitrogen. The solvent was removed and the crude material was purified via silica gel chromatography to give 4-chloro-N-{[4-chloro-3-({3-chloro-5-[(trimethylsilyl)ethynyl]phenyl}oxy)-2-fluorophenyl]methyl}-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (121 mg, 0.189 mmol, 81% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.74 (t, 1H), 7.95 (s, 1H), 7.41-7.48 (m, 1H), 7.36 (t, 1H), 7.25 (s, 1H), 7.09 (t, 1H), 6.79 (s, 1H), 5.46 (s, 2H), 4.46 (d, 2H), 3.35 (t, 2H), 0.72 (t, 2H), 0.08-0.31 (m, 9H), −0.12 (s, 9H).

reactant | N-({3-[(3-bromo-5-chlorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.232 mmol, 145 mg | BrC=1C=C(C=C(C1)Cl)OC=1C(=C(C=CC1Cl)CNC(=O)C1=C(N=CN1COCC[Si](C)(C)C)Cl)F | C23H24BrCl3FN3O3Si
reactant | trimethylsilylacetylene | 0.302 mmol, 43 μL | C[Si](C)(C)C#C | C5H10Si
solvent | THF | 8 ml | C1CCOC1 | C4H8O
catalyst | copper iodide | 0.012 mmol, 2.213 mg | [Cu](I)I
product | 4-chloro-N-{[4-chloro-3-({3-chloro-5-[(trimethylsilyl)ethynyl]phenyl}oxy)-2-fluorophenyl]methyl}-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.189 mmol, 121 mg, 81% yield | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#C[Si](C)(C)C)Cl)F)COCC[Si](C)(C)C | C28H33Cl3FN3O3Si2
